US05644053
(a) Benzhydryl (E)-(2S,3S,5R)-3-methyl-3-(2-pyridin-2-yl- vinyl)-7-oxo-4-thia-1-aza-bicyclo[3.2.0]heptane-2-carboxylate
A suspension of 353 mg (1.0 mmol) of (2-picolyl)methylene-triphenylphosphorane and 381 mg (1.00 mmol) of benzhydryl (2S,3R,5R)-3-formyl-3-methyl-7-oxo-4-thia-1-aza-bicyclo-[3.2.0]heptane-2-carboxylate in 10 ml of diethyl ether was stirred at room temperature under argon for 2 hours. The mixture was treated with 10 ml of methylene chloride, insoluble material was removed by suction filtration and the filtrate was concentrated. The residue remaining behind was chromatographed over silica gel (particle size 0.040-0.063 mm) with methylene chloride:ethyl acetate (95:5) as the eluent. Yield: 128 mg (28%) of a colorless foam MS: (M·) 456 IR (KBr): 1779, 1747, 1634, 1291, 988 cm-1

reactant | (2-picolyl)methylene-triphenylphosphorane | 1.0 mmol, 353 mg | N1=C(C=CC=C1)CC=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H22NP
reactant | benzhydryl (2S,3R,5R)-3-formyl-3-methyl-7-oxo-4-thia-1-aza-bicyclo-[3.2.0]heptane-2-carboxylate | 1.00 mmol, 381 mg | C(=O)[C@]1([C@@H](N2C(C[C@H]2S1)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C | C21H19NO4S
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | Benzhydryl (E)-(2S,3S,5R)-3-methyl-3-(2-pyridin-2-yl- vinyl)-7-oxo-4-thia-1-aza-bicyclo[3.2.0]heptane-2-carboxylate | C[C@@]1([C@@H](N2C(C[C@H]2S1)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)\C=C\C1=NC=CC=C1 | C27H24N2O3S
